US04418208
2,2'-[[2-[(4-Bromo-3-methylphenyl)amino]-2-oxoethyl]imino]bisacetic acid
A slurry of 9.56 g of nitrilotriacetic acid in 80 ml of dry pyridine (dried over molecular sieves) is heated to 55° C. Acetic anhydride (7.66 g) is added and the solution is heated to 100° C. After heating for 0.5 hour, the solution is cooled to 55° C. and 9.30 g of 4-bromo-3-methylaniline is added with a 5 ml pyridine rinse. The solution is heated at 100° C. for 1.0 hour. The reaction is cooled and rotary evaporated to a pasty solid which is dissolved in 120 ml of aqueous ammonium hydroxide (30 ml concentrated ammonium hydroxide/90 ml distilled water). The clear brown solution is extracted with two 100 ml portions of methylene chloride and neutralized to pH 3 with 35 ml of concentrated HCl. The white solid is filtered, washed with three 25 ml portions of cold distilled water, and dried under vacuum for 2.75 hours at 60° C. The crude product (12.9 g) is recrystallized from 360 ml of 50% ethanol to give 9.85 g of product, melting point 206.5°-209.0° C.

reactant | nitrilotriacetic acid | 9.56 g | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
reactant | Acetic anhydride | 7.66 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-bromo-3-methylaniline | 9.30 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2,2'-[[2-[(4-Bromo-3-methylphenyl)amino]-2-oxoethyl]imino]bisacetic acid | 9.85 g | BrC1=C(C=C(C=C1)NC(CN(CC(=O)O)CC(=O)O)=O)C | C13H15BrN2O5
